US07452911B2
3.72c (R)-1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-ol
Prepared according to general working method I from (R)-1-(5-iodo-pyridin-2-yl)-pyrrolidin-3-ol (1.30 g, 4.48 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (957 mg, 4.48 mmol).

reactant | (R)-1-(5-iodo-pyridin-2-yl)-pyrrolidin-3-ol | 4.48 mmol, 1.30 g | IC=1C=CC(=NC1)N1C[C@@H](CC1)O | C9H11IN2O
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 4.48 mmol, 957 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | (R)-1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-ol | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)N1C[C@@H](CC1)O | C22H18ClN3O
